US07988877B2
Preparation of 2,2,3,3,4,4,4-heptafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate
2,2,3,3,4,4,4-heptafluorobutan-1-ol (200 g, 1.0 mol, obtained from 3M Company) and 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (300 g, 1.0 mol, obtained from 3M Company) were combined in a 1-liter, 3-necked round bottom flask. The flask was equipped with an overhead mechanical stirrer, cold water condenser, thermocouple and an addition funnel. Aqueous potassium hydroxide (45 percent by weight in water, 154 g, 1.05 mol) was added dropwise via the addition funnel at such a rate that the temperature did not exceed 35° C. Once the addition of the potassium hydroxide was complete, the mixture was stirred for 16 hours at room temperature. Precipitated salts were then filtered from the mixture and the lower liquid fluorochemical product phase was separated from the upper aqueous phase and washed once with water to give 350 g crude product. The product was distilled at atmospheric pressure and the distillation cut boiling from 140-150° C. used without further purification (96.3 percent purity by GC).

reactant | 2,2,3,3,4,4,4-heptafluorobutan-1-ol | 1.0 mol, 3M, 200 g | FC(CO)(C(C(F)(F)F)(F)F)F | C4H3F7O
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 1.0 mol, 3M, 300 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | potassium hydroxide | 1.05 mol, 154 g | [OH-].[K+]
product | 2,2,3,3,4,4,4-heptafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 350 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OCC(C(C(F)(F)F)(F)F)(F)F)F | C8H2F16O3S
